US07528136B2
e) {1-(2,3-Difluoro-benzyl)-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-(2,4-difluoro-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester
A mixture of {5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-(2,4-difluoro-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester (0.078 g, 0.13 mmol), 2,3-difluorobenzaldehyde and acetic acid (cat.) in DCM (5 ml) was stirred for 20 min, and then NaBH(OAc)3 (0.041 g, 0.13 mmol) was carefully added. The reaction mixture was stirred overnight, and was concentrated to give crude product which was directly used for next step.

reactant | {5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-(2,4-difluoro-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester | 0.13 mmol, 0.078 g | ClC(COC(N(CC1=C(C=C(C=C1)F)F)C1CNC(C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)=O)(Cl)Cl | C26H26Cl3F2N5O3
reactant | 2,3-difluorobenzaldehyde | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.13 mmol, 0.041 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | {1-(2,3-Difluoro-benzyl)-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-(2,4-difluoro-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester | ClC(COC(N(CC1=C(C=C(C=C1)F)F)C1CN(C(C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)CC1=C(C(=CC=C1)F)F)=O)(Cl)Cl | C33H30Cl3F4N5O3
